US04855086
A solution of sodium hydroxide (31.4 g) in water (160 ml) was cooled to 6° C. and bromine (18 ml) was added dropwise, the temperature being kept below 20° C. Phenylacetylene (20 g) in dimethoxethylene (80 ml) was added over 15 minutes and the mixture was stirred at room temperature for 5 hours. Water (200 ml) was added, and the mixture was extracted with ether (4×60 ml), dried (MgSO4) and the solvents removed at room temperature to yield phenylbromoacetylene.

reactant | sodium hydroxide | 31.4 g | [OH-].[Na+]
reactant | bromine | 18 ml | BrBr | Br2
reactant | Phenylacetylene | 20 g | C1(=CC=CC=C1)C#C | C8H6
solvent | water | 160 ml | O | H2O
solvent | Water | 200 ml | O | H2O
product | phenylbromoacetylene | C1(=CC=CC=C1)C#CBr | C8H5Br
